US04868162
A solution was prepared by dissolving 250 mg (1.01 m mole) of 5-fluoro-2'-deoxyuridine in 10 ml of pyridine anhydride, and 1100 mg (2.2 m mole) of hexadecanoic acid anhydride and 1.2 mg (0.01 m mole) of dimethylaminopyridine were added to the solution with stirring on the ice bath. The mixture was stirred overnight at room temperature. The reaction mixture was poured into 50 ml of ice water, stirred for 30 minutes, and its pH was adjusted to 4.0 by adding 2N HCl. Extraction was repeated threetimes with the use of 20 ml of ethyl acetate, and then ethyl acetate was distilled away at room temperature under reduced pressure. Thus obtained crude product was dissolved in dichloromethane and the solution was put tocolumn chromatography on silica gel. The eluates from dichloromethane-ethanol (98:2)-(97:3) were collected and concentrated to obtain 3,5'-dihexadecanoyl-5-fluoro-2'-deoxyuridine.

reactant | 5-fluoro-2'-deoxyuridine | 250 mg | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O5
reactant | hexadecanoic acid anhydride | 1100 mg | C(CCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCC)=O | C32H62O3
reactant | dimethylaminopyridine | 1.2 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | HCl | 2N | Cl | ClH
reactant | dichloromethane ethanol | ClCCl.C(C)O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,5'-dihexadecanoyl-5-fluoro-2'-deoxyuridine | C(CCCCCCCCCCCCCCC)(=O)N1C(N([C@H]2C[C@H](O)[C@@H](C(O)C(CCCCCCCCCCCCCCC)=O)O2)C=C(C1=O)F)=O | C41H71FN2O7
